US08877760B2
To a mixture of 4-pyridylboronic acid (500 mg, 4.06 mmol), 1-iodo-4-nitrobenzene (1.01 g, 4.06 mmol) and Pd(Ph3P)2Cl2 (140 mg, 0.199 mmol) in dioxane (15 mL), a solution of Na2CO3 (1.00 g, 9.43 mmol) in H2O (10 mL) was added. The mixture was stirred at 100 C for 20 h. Water and EtOAc were added. Organic phase was separated, washed with 5% NaHCO3, dried over Na2SO4, concentrated in vacuo. The residue was purified by a silica gel column on ISCO, eluted with 20-100% EtOAc in hexanes to give 4-(4-nitrophenyl)pyridine as a solid (342 mg).

reactant | 4-pyridylboronic acid | 4.06 mmol, 500 mg | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | 1-iodo-4-nitrobenzene | 4.06 mmol, 1.01 g | IC1=CC=C(C=C1)[N+](=O)[O-] | C6H4INO2
reactant | Na2CO3 | 9.43 mmol, 1.00 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 10 mL | O | H2O
catalyst | Pd(Ph3P)2Cl2 | 0.199 mmol, 140 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-(4-nitrophenyl)pyridine | 342 mg | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=NC=C1 | C11H8N2O2
